Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]#[C:4][O:6][C:7]([H:8])([H:9])[H:10].[H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[H:10],-2.58164878218
[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-6.45754718529
[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[H:3].[O:1]=[C:2][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],4.46256317765
[C:8](=[C:9]([H:10])[H:11])=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14],0.6620043667000001
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[C:15]([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14],5.2374980861900005
[H:6].[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-1.28327990942
[H:5].[O:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-3.37388235343
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],1.77937149637
[H:1][C:2]1=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]1>>[H:1][C:2]([C:3]([H:4])[C:7]([H:8])([H:9])[H:10])([H:13])[C:14][C:11]([C:5][H:6])[H:12],4.42778166466
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:5],4.3319487724300005
[C:1]#[C:2].[C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8],-7.71784474195
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],4.60823884646
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11][H:12],3.84966327765
[H:1][C:2]([H:3])=[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:5]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.60730645684
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],-8.54668482225
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:5],4.69838531535
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10],3.67094799185
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[H:11].[H:6],1.71005561265
[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13],3.86725057703
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.3135081885
[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:3]=[C:4]([H:5])[H:6],1.27934256984
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6](=[O:7])[C:8]([H:9])[H:10]>>[C:6](=[O:7])=[C:8]([H:9])[H:10].[O:1]=[C:2]=[C:3]([H:4])[H:5],-1.12128639562
[C:1]=[C:2]([C:3]([H:4])[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[H:8].[C:9]([H:10])([H:11])[H:12],1.98836073792
[H:1][C:2]([H:3])=[C:4][H:5].[O:6]=[C:7]([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-3.4727092923100003
[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-6.22194017
[H:10].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.55242814809
[C:5][H:6].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5][H:6],-5.63364835048
